US07342014B2
Lithium 4-chloro-5-(1,3-dioxolan-2-yl)thiazole-2-carboxylate
2,4-Dichlorothiazole-5-carbaldehyde ethyleneacetal (J. Chem. Soc. Perkin Trans. 1, 1992, p. 973) (2.26 g) was dissolved in tetrahydrofuran (15 ml), and n-butyllithium (1.5N hexane solution, 6.8 ml) was added under cooling with dry ice-acetone to stir the mixture for 20 minutes. At the same temperature, carbon dioxide was then introduced. The reaction mixture was gradually heated to room temperature over 1.5 hours and then concentrated. Hexane was added to the reaction mixture to powder the product. The product was collected by filtration and suspended in ethyl acetate, and formed powder was collected again by filtration to obtain the title compound (1.65 g).

reactant | 2,4-Dichlorothiazole-5-carbaldehyde ethyleneacetal | 2.26 g | C1COC(C2=C(N=C(S2)Cl)Cl)O1 | C6H5Cl2NO2S
reactant | n-butyllithium | 1.5N, 6.8 ml | C(CCC)[Li]
reactant | dry ice acetone | C(=O)=O.CC(=O)C
reactant | carbon dioxide | C(=O)=O | CO2
solvent | tetrahydrofuran | 15 ml | O1CCCC1 | C4H8O
product | Lithium 4-chloro-5-(1,3-dioxolan-2-yl)thiazole-2-carboxylate | 1.65 g | ClC=1N=C(SC1C1OCCO1)C(=O)[O-].[Li+] | InChI=1S/C7H6ClNO4S.Li/c8-4-3(7-12-1-2-13-7)14-5(9-4)6(10)11;/h7H,1-2H2,(H,10,11);/q;+1/p-1
